US07943639B2
tert-butyl 4-(2-bromothieno[3,2-c]pyridin-4-yl)-1,4-diazepane-1-carboxylate
The same procedure above intermediate was used starting from 2-bromo-4-chlorothieno[3,2-c]pyridine (7.5 g, 30.45 mmol), K2CO3 (6.7 g, 33.5 mmol) and tert-butyl 1,4-diazepane-1-carboxylate (21.0 g, 152.2 mmol) in DMSO (30 mL). Purification by flash chromatography 3.04 g of the title compound (Yield 25%). HPLC purity 92%; 1H NMR (270 MHz, CDCl3) δ 1.38 (s, 4.5H), 1.43 (s, 4.5H), 1.96-2.11 (m, 2H), 3.36-3.41 (m, 1H), 3.46-3.51 (m, 1H), 3.65-3.87 (m, 6H), 7.02-7.04 (m, 1H), 7.40-7.42 (m, 1H), 7.94 (d, J=5.4 Hz, 1H). m/z=411.97 (M+H).

reactant | 2-bromo-4-chlorothieno[3,2-c]pyridine | 30.45 mmol, 7.5 g | BrC1=CC=2C(=NC=CC2S1)Cl | C7H3BrClNS
reactant | K2CO3 | 33.5 mmol, 6.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl 1,4-diazepane-1-carboxylate | 152.2 mmol, 21.0 g | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | tert-butyl 4-(2-bromothieno[3,2-c]pyridin-4-yl)-1,4-diazepane-1-carboxylate | 3.04 g, Yield 25% | BrC1=CC=2C(=NC=CC2S1)N1CCN(CCC1)C(=O)OC(C)(C)C | C17H22BrN3O2S
